US08754103B2
To a round bottom flask was added 3-(1,1-difluoro-2-(oxiran-2-ylmethoxy)ethyl)-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridine, prepared as described in Example 15, and 2-chlorophenol in acetone followed by potassium carbonate (sodium hydride in DMF at RT will also work). The reaction mixture was refluxed overnight. Potassium carbonate was filtered off. The filtrate was concentrated down and purified by prep TLC followed by prep HPLC to afford 1-(2-chlorophenoxy)-3-(2,2-difluoro-2-(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethoxy)propan-2-ol.

reactant | 3-(1,1-difluoro-2-(oxiran-2-ylmethoxy)ethyl)-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridine | FC(COCC1OC1)(F)C1=NN=C2N1C=C(C=C2)C2=CC=C(C=C2)OC(F)(F)F | C18H14F5N3O3
reactant | 2-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydride | [H-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-(2-chlorophenoxy)-3-(2,2-difluoro-2-(6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-3-yl)ethoxy)propan-2-ol | ClC1=C(OCC(COCC(C2=NN=C3N2C=C(C=C3)C3=CC=C(C=C3)OC(F)(F)F)(F)F)O)C=CC=C1 | C24H19ClF5N3O4
